US07825253B2
N2-(2,2-Dimethyl-2,3-dihydro-benzofuran-7-yl)-N5-pyridin-3-ylmethyl-quinoline-2,5-diamine
The title compound, MS: m/e=397.3 (M+H+), was prepared in accordance with the general method of example 1 from 5-iodo-2-chloroquinoline, 7-amino-2,3-dihydro-2,2-dimethylbenzofuran (CAS 68298-46-4) and 3-picolylamine.

reactant | 5-iodo-2-chloroquinoline | IC1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClIN
reactant | 7-amino-2,3-dihydro-2,2-dimethylbenzofuran | NC1=CC=CC=2CC(OC21)(C)C | C10H13NO
reactant | 3-picolylamine | N1=CC(=CC=C1)CN | C6H8N2
product | N2-(2,2-Dimethyl-2,3-dihydro-benzofuran-7-yl)-N5-pyridin-3-ylmethyl-quinoline-2,5-diamine | CC1(OC2=C(C1)C=CC=C2NC2=NC=1C=CC=C(C1C=C2)NCC=2C=NC=CC2)C | C25H24N4O
